US05356918
(4R)-N-(2-Nitrooxypropyl)-2-oxothiazolidine-4-carboxamide (Compound No. 1-31)
A procedure similar to that described in Example 1 was repeated, but using 2.0 g of (4R)-2-oxothiazolidine4-carboxylic acid and 3.0 g of N-(2-nitrooxypropyl)amine nitrate, to obtain 24 mg of the title compound as pale yellow crystals, melting at 70°-72° C. (after recrystallization from ethanol).

reactant | (4R)-2-oxothiazolidine4-carboxylic acid | 2.0 g | O=C1SC[C@H](N1)C(=O)O | C4H5NO3S
reactant | N-(2-nitrooxypropyl)amine nitrate | 3.0 g | [N+](=O)(O)[O-].[N+](=O)([O-])OC(CN)C
product | (4R)-N-(2-Nitrooxypropyl)-2-oxothiazolidine-4-carboxamide | [N+](=O)([O-])OC(CNC(=O)[C@H]1NC(SC1)=O)C | C7H11N3O5S
